US20010027196A1
To a stirred suspension of 0.5 g (2.47 mmol) 2-amino-4-furan-2-yl-6-oxo-1,6-dihydro-pyrimidine-5-carbonitrile in 10 ml dichloromethane was added 1.11 ml (4.95 mmol) 2,6-di-tert-butylpyridine and the mixture was ultrasonicated for 30 minutes. 0.41 ml (2.47 mmol) triflic anhydride was then added dropwise at 0° C. with stirring and stirring continued at room temperature for 16 hours. 3 g of kieselgel was added to the reaction mixture, which was then concentrated in vacuo. Chromatography (ethyl acetate) followed by trituration in ether/hexane afforded 0.25 g (30%) trifluoromethanesulfonic acid 2-amino-5-cyano-6-furan-2-yl-pyrimidin-4-yl ester as a light brown crystalline solid. EI-MS m/e (%): 334 (M+, 100), 173 (62), 69 (50).

reactant | 2-amino-4-furan-2-yl-6-oxo-1,6-dihydro-pyrimidine-5-carbonitrile | 2.47 mmol, 0.5 g | NC=1NC(C(=C(N1)C=1OC=CC1)C#N)=O | C9H6N4O2
reactant | 2,6-di-tert-butylpyridine | 4.95 mmol, 1.11 ml | C(C)(C)(C)C1=NC(=CC=C1)C(C)(C)C | C13H21N
reactant | triflic anhydride | 2.47 mmol, 0.41 ml | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | trifluoromethanesulfonic acid 2-amino-5-cyano-6-furan-2-yl-pyrimidin-4-yl ester | 0.25 g, 30% | NC1=NC(=C(C(=N1)OS(=O)(=O)C(F)(F)F)C#N)C=1OC=CC1 | C10H5F3N4O4S
